US04965257
Using a method analogous to that described in stage iv of Example 5 2,2-di-hydroxymethyl-pentan-1-thiol and trimethyl 4-bromo-orthobenzoate were reacted together to give 1-(4-bromophenyl)-4-n-propyl-2,6-dioxa-7-thiabicyclo[2,2,2]octane (colourless solid).

reactant | 2,2-di-hydroxymethyl-pentan-1-thiol | OCC(CS)(CCC)CO | C7H16O2S
reactant | trimethyl 4-bromo-orthobenzoate | COC(C1=CC=C(C=C1)Br)(OC)OC | C10H13BrO3
product | 1-(4-bromophenyl)-4-n-propyl-2,6-dioxa-7-thiabicyclo[2,2,2]octane | BrC1=CC=C(C=C1)C12OCC(CO1)(CS2)CCC | C14H17BrO2S
